US09388176B2
1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-3-methylphenyl]-3-(3-methylphenyl)urea
To a mixture of 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-3-methylaniline trihydrochloride (24.7 mg, 0.071 mmol) and N,N-diisopropylethylamine (0.043 mL, 0.25 mmol) in 1.0 mL CH2Cl2 at rt was added meta-tolyl isocyanate (0.013 mL, 0.106 mmol) and the reaction stirred at rt for 1.5 hours. The reaction was quenched into a brine/aqueous Na2CO3 solution, then extracted with EtOAc. The EtOAc layer was washed with brine/aqueous Na2CO3 solution, dried with anhydrous Na2SO4, and evaporated to an oily solid. The oil was chromatographed eluting with CHCl3/EtOAc plus 0.5% MeOH to give the title compound as a faint yellow solid (26 mg, 97%). 1H NMR (Acetone-d6) δ: 8.35 (s, 1H), 8.32 (d, J=5.0 Hz, 1H), 7.97 (s, 1H), 7.93 (s, 1H), 7.29-7.40 (m, 4H), 7.08-7.17 (m, 3H), 6.80 (d, J=7.3 Hz, 1H), 4.07 (s, 2H), 3.15-3.20 (m, 2H), 2.97-3.03 (m, 2H), 2.30 (s, 3H), 2.29 (s, 3H)

reactant | 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-3-methylaniline trihydrochloride | 0.071 mmol, 24.7 mg | Cl.Cl.Cl.C1N(CCC2=CC=NC=C12)C1=C(C=C(N)C=C1)C
reactant | N,N-diisopropylethylamine | 0.25 mmol, 0.043 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | meta-tolyl isocyanate | 0.106 mmol, 0.013 mL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-3-methylphenyl]-3-(3-methylphenyl)urea | 26 mg, 97% | C1N(CCC2=CC=NC=C12)C1=C(C=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)C | C23H24N4O
